US06133294
3-t-Butyl-5-(5,6-dichloro-3-pyridyl)-1,2,4-oxadiazole
A mixture of 5,6-dichloro-pyridine-3-carbonyl chloride (1.8 g, 8.6 mmol) and N-hydroxy-2,2-dimethylpropanimidamide (1.0 g, 8.6 mmol) in toluene (40 mL) was stirred at room temperature for two hours and then heated under reflux for four hours. The mixture was cooled to room temperature and filtered through celite, the solids being washed with toluene (20 mL). Evaporation of the combined filtrates under reduced pressure gave the desired product (1.3 g, 56%) as a clear oil which crystallised on standing to a white solid, MP 98-101° C.

reactant | 5,6-dichloro-pyridine-3-carbonyl chloride | 8.6 mmol, 1.8 g | ClC=1C=C(C=NC1Cl)C(=O)Cl | C6H2Cl3NO
reactant | N-hydroxy-2,2-dimethylpropanimidamide | 8.6 mmol, 1.0 g | ONC(C(C)(C)C)=N | C5H12N2O
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 3-t-Butyl-5-(5,6-dichloro-3-pyridyl)-1,2,4-oxadiazole | 1.3 g, 56% | C(C)(C)(C)C1=NOC(=N1)C=1C=NC(=C(C1)Cl)Cl | C11H11Cl2N3O
